US04399294
2. 2-[2-[[5-(1,3-Dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]isoindole-1,3-(2H)-dione
A mixture of N-[2-[(5-formyl-2-furanylmethyl)thio]ethyl ]-1H-isoindole-1,3-(2H)-dione (15 g), p-toluenesulphonic acid (0.12 g) and 1,2-ethanediol (6.2 g) in benzene (160 ml) was refluxed under Dean-Starke conditions. After 6 hours, the solution was washed with a solution of sodium carbonate (1.2 g) in water (25 ml), dried (Na2CO3), decolourised (charcoal) and evaporated in vacuo. The semi-solid residue was suspended in ether (200 ml) and filtered off to give the title compound (13.5 g), m.p. 83°-85°.

reactant | N-[2-[(5-formyl-2-furanylmethyl)thio]ethyl ]-1H-isoindole-1,3-(2H)-dione | 15 g | C(=O)C1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C16H13NO4S
reactant | 1,2-ethanediol | 6.2 g | C(CO)O | C2H6O2
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulphonic acid | 0.12 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[2-[[5-(1,3-Dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]isoindole-1,3-(2H)-dione | 13.5 g | O1C(OCC1)C1=CC=C(O1)CSCCN1C(C2=CC=CC=C2C1=O)=O | C18H17NO5S
